US07932399B2
2-Trifluoromethyl-2,5-dihydro-furan-2-carboxylic acid ethyl ester
To a solution of 2-allyloxy-2-trifluoromethyl-but-3-enoic acid ethyl ester (2.15 g, see above) in CH2Cl2 (100 mL) at room temperature was added Grubbs catalyst 2nd generation (Aldrich) (67 mg). The resulting mixture was stirred for 18 h at room temperature. The reaction mixture was then filtered through a plug of Celite® and silica gel, rinsed with EtOAc and then concentrated to yield the title compound as a yellow oil.

reactant | 2-allyloxy-2-trifluoromethyl-but-3-enoic acid ethyl ester | 2.15 g | C(C)OC(C(C=C)(C(F)(F)F)OCC=C)=O | C10H13F3O3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs catalyst 2nd generation | 67 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | 2-Trifluoromethyl-2,5-dihydro-furan-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OCC=C1)C(F)(F)F | C8H9F3O3
